US05401774
To 5,6-difluoro-2-methyl-1-(ρ-methylsulfinylbenzylidene)-indene-3-aceticacid (0.005 mole) in acetone (15 ml.) is added, slowly with stirring, m-chloroperbenzoic acid (0.005 mole). The mixture is heated and evaporated to near dryness at 40°. The solid is washed with boiling water (4×50 ml.) and dried yielding 5,6-difluoro-2-methyl-1-(ρ-methylsulfonylbenzylidene)-indene-3-acetic acid, M.P. 228-230°. (R1 =hydrogen; R2 =CH3 ; R3 =5-fluoro; R4 =6-fluoro; R5 =CH3 --SO2 --).

reactant | 5,6-difluoro-2-methyl-1-(ρ-methylsulfinylbenzylidene)-indene-3-aceticacid | 0.005 mole | FC=1C=C2C(=C(C(C2=CC1F)=CC1=CC=C(C=C1)S(=O)C)C)CC(=O)O | C20H16F2O3S
reactant | m-chloroperbenzoic acid | 0.005 mole | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 5,6-difluoro-2-methyl-1-(ρ-methylsulfonylbenzylidene)-indene-3-acetic acid | FC=1C=C2C(=C(C(C2=CC1F)=CC1=CC=C(C=C1)S(=O)(=O)C)C)CC(=O)O | C20H16F2O4S
